US05080708
A solution of 14.9 g of NaOH in 120 ml of water and 150 ml of methanol is added dropwise to 85.5 g of dimethyl 3-ethylisothiazole-4,5-dicarboxylate in 300 ml of methanol, while cooling with ice. After 2 hours, the mixture is evaporated down, 1.5 l of water are added to the residue and the mixture is stirred, and extracted with ether. The aqueous phase is acidified with concentrated hydrochloric acid and extracted by shaking with dichloromethane. The organic phases are evaporated down to give 76.4 g of 3-ethyl-4-methoxycarbonylisothiazole-5-carboxylic acid of melting point 43°-45° C.

reactant | NaOH | 14.9 g | [OH-].[Na+]
reactant | dimethyl 3-ethylisothiazole-4,5-dicarboxylate | 85.5 g | C(C)C1=NSC(=C1C(=O)OC)C(=O)OC | C9H11NO4S
solvent | water | 120 ml | O | H2O
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 300 ml | CO | CH4O
product | 3-ethyl-4-methoxycarbonylisothiazole-5-carboxylic acid | 76.4 g | C(C)C1=NSC(=C1C(=O)OC)C(=O)O | C8H9NO4S
